US08563735B2
methyl 2-bromo-4-(piperazin-1-yl)benzoate
This example was prepared by substituting piperazine for EXAMPLE 1B and methyl 2-bromo-4-fluorobenzoate for EXAMPLE 1C in EXAMPLE 1D.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | methyl 2-bromo-4-fluorobenzoate | BrC1=C(C(=O)OC)C=CC(=C1)F | C8H6BrFO2
product | methyl 2-bromo-4-(piperazin-1-yl)benzoate | BrC1=C(C(=O)OC)C=CC(=C1)N1CCNCC1 | C12H15BrN2O2
